US05158946
(a) Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-4-ylthiomethyl)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-(t-butyloxycarbonyl)methoxyiminoacetamido]ceph-3-em-4-carboxylate
A stirred solution of 2-(2-tritylaminothiazol-4-yl)-2-(Z)-(t-butyloxycarbonyl)methoxyiminoacetic acid (498 mg) in dimethylformamide (4 ml) was cooled to -55° C. to -60° C. and N,N-diisopropylethylamine (0.157 ml) was added, followed by methanesulphonyl chloride (0.068 ml). The mixture was stirred at the same temperature for 0.5 h and then diphenylmethyl 7β-amino-3-(2,5-dihydro-2-oxofuran-4-ylthiomethyl)ceph-3-em-4-carboxylate (395 mg) and pyridine (0.064 ml) were added. The mixture was then stirred at 0° for 1.25 h, and then partitioned between ethyl acetate and citric acid solution. The organic phase was washed successively with water, sodium bicarbonate solution, water and brine. The solution was dried over magnesium sulphate and evaporated. The product (567 mg) was isolated by column chromatography of the residue using gradient elution (Kieselgel 1:1 going to 3:7 hexane: ethyl acetate as eluent). υmax (CHCl3) 3400, 3250, 1790, 1745, 1730 and 1680cm-1 ; δ(CDCl3) 1.43 (9H, s), 3.40 (1H, d, J 18.0Hz), 3.56 (1H, d, J 18.0Hz), 3.91 (1H, d, J 12.4Hz), 4.02 (1H, d, J 12.4Hz), 4.72 (2H, s), 4.73 (1H, d, J 17.1Hz), 4.81 (1H, d, J 17.1Hz), 5.08 (1H, d, J 4.9Hz), 5.66 (1H, s), 5.93 (1H, dd, J 4.9 and 8.3Hz), 6.82 (1H, s), 6.95 (1H, s,), 7.01 (1H, s), 7.2-7.45 (25H, m), 8.77 (1H, d, J 8.3Hz).

reactant | 2-(2-tritylaminothiazol-4-yl)-2-(Z)-(t-butyloxycarbonyl)methoxyiminoacetic acid | 498 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OCC(=O)OC(C)(C)C | C30H29N3O5S
reactant | N,N-diisopropylethylamine | 0.157 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanesulphonyl chloride | 0.068 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | diphenylmethyl 7β-amino-3-(2,5-dihydro-2-oxofuran-4-ylthiomethyl)ceph-3-em-4-carboxylate | 395 mg | N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=CC(OC2)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H22N2O5S2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 0.064 ml | N1=CC=CC=C1 | C5H5N
product | Diphenylmethyl 3-(2,5-Dihydro-2-oxofuran-4-ylthiomethyl)-7β-[2-(2-tritylaminothiazol-4-yl)-2-(Z)-(t-butyloxycarbonyl)methoxyiminoacetamido]ceph-3-em-4-carboxylate | 567 mg | O=C1OCC(=C1)SCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC(\C(=N/OCC(=O)OC(C)(C)C)\C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C55H49N5O9S3
